US06380218B1
2-Fluoro-5-methoxy-benzonitrile
A solution of 2-Chloro-1-fluoro-4-methoxy-benzene (10.4 grams, 65.0 mmole), CuCN (6.4 grams, 71.0 mmole) and N-methylpyrrolidinone (100 ml) was refluxed for 18 hours. An additional 2.3 g CuCN was added, and the mixture was refluxed for 40 hours. The mixture was poured into 300 ml ice water and stirred for 10 minutes. This was poured into 100 ml methylene chloride and the layers were separated. The mixture was washed with water, dried over MgSO4, filtered, and concentrated to a solid (2.8 g). MW 137.12; MS (m/e) 137(M+).

reactant | 2-Chloro-1-fluoro-4-methoxy-benzene | 65.0 mmole, 10.4 grams | ClC1=C(C=CC(=C1)OC)F | C7H6ClFO
reactant | CuCN | 71.0 mmole, 6.4 grams | C(#N)[Cu]
reactant | N-methylpyrrolidinone | 100 ml | CN1C(CCC1)=O | C5H9NO
reactant | CuCN | 2.3 g | C(#N)[Cu]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-Fluoro-5-methoxy-benzonitrile | FC1=C(C#N)C=C(C=C1)OC | C8H6FNO
